US04061761
4-[4-Chloro-3-(2-methoxypropylsulfamoyl)-phenyl]-3-methyl-2-methylimino-1,3-thiazolidine-4-ol
6.5 g of 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide were reacted as prescribed in Example 76 with 5 g of 2-methoxypropyl amine in 100 ml of ethanol and worked up. Colorless crystalline solid substance, melting point: 148° C (acetonitrile/active charcoal).

reactant | 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide | 6.5 g | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(=O)(=O)Cl
reactant | 2-methoxypropyl amine | 5 g | COC(CN)C | C4H11NO
reactant | acetonitrile | C(C)#N | C2H3N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-[4-Chloro-3-(2-methoxypropylsulfamoyl)-phenyl]-3-methyl-2-methylimino-1,3-thiazolidine-4-ol | ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(NCC(C)OC)(=O)=O | C15H22ClN3O4S2
